US07625908B2
The N-[(2R)-2-({4-[(3-chloro-4-hydroxyphenyl)amino]quinazolin-5-yl}oxy)propyl]-2-hydroxy-N-methylacetamide starting material was prepared by reacting 2-chloro-4-({5-[(1R)-1-methyl-2-(methylamino)ethoxy]quinazolin-4-yl}amino)phenol with and glycolic acid using an analogous procedure to that described in Example 3 for the preparation of 2-hydroxy-N-[2-({4-[4-hydroxy-3-methylanilino]quinazolin-5-yl}oxy)ethyl]-N-methylacetamide, to give N-[(2R)-2-({4-[3-chloro-4-hydroxyanilino]quinazolin-5-yl}oxy)propyl]-2-hydroxy-N-methylacetamide in 57% yield; NMR spectrum (DMSO-d6) 1.39 (d, 3H), 2.91 (m, 1H), 2.97 (s, 3H), 3.39 (dd, 1H), 4.04 (d, 2H), 4.16 (m, 1H), 4.39 (m, 1H), 5.08 (m, 1H), 6.98 (d, 1H), 7.27 (m, 2H), 7.47 (dd, 1H), 7.70 (t, 1H), 7.97 (d, 1H), 8.43 (s, 1H), 9.85 (s, 1H), 9.99 (bs, 1H); Mass spectrum MH+ 417.

reactant | 2-chloro-4-({5-[(1R)-1-methyl-2-(methylamino)ethoxy]quinazolin-4-yl}amino)phenol | ClC1=C(C=CC(=C1)NC1=NC=NC2=CC=CC(=C12)O[C@@H](CNC)C)O | C18H19ClN4O2
reactant | glycolic acid | C(CO)(=O)O | C2H4O3
reactant | 2-hydroxy-N-[2-({4-[4-hydroxy-3-methylanilino]quinazolin-5-yl}oxy)ethyl]-N-methylacetamide | OCC(=O)N(C)CCOC1=C2C(=NC=NC2=CC=C1)NC1=CC(=C(C=C1)O)C | C20H22N4O4
product | N-[(2R)-2-({4-[3-chloro-4-hydroxyanilino]quinazolin-5-yl}oxy)propyl]-2-hydroxy-N-methylacetamide | ClC=1C=C(NC2=NC=NC3=CC=CC(=C23)O[C@@H](CN(C(CO)=O)C)C)C=CC1O | C20H21ClN4O4
